Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman w/ history of HTN, HLD who presented 
with with progressive fatigue, exertional shortness of breath, 
weakness over a month found to have anemia.

Ms. ___ reports that over the past several months she has had 
progressive fatigue of unclear etiology. She reports that she 
has noted that she has had increased dyspnea on exertion. 
Initially with climbing stairs and then with walk on flat 
surfaces for prolonged period of time. 

In this setting she also noted R sided visual loss and saw an 
ophthalmologist who diagnosed her with a cataract. She underwent 
pre-operative eval where blood work was taken on ___. 

Today, she was going to her school in the morning and developed 
severe SOB and mild back/shoulder pain while climbing stairs. 
She called her PCP office who told her of her anemia and 
arranged and ambulance to take her to the ED. 

In the ED, initial vitals:  09:40 0 98.2 80 98/62 20 100% RA  
Exam notable for well appearing woman no distress. FOBT negative
Labs were significant for Hgb of 7.8 from 13.4 in ___. MCV 64 
with elevated RDW. No imaging was done. In the ED, she received 
1LNS. Decision was made to admit for management of anemia. 
Vitals prior to transfer:  0  70 119/63 19 98% RA 

Currently, she reports that she feels well. She has no history 
of bleeding. No vaginal bleeding. Last menstrual period at age 
___. Stools are brown. No black or tarry stools. No major 
surgeries recently. No abdominal or epigastric pain. Last 
colonoscopy several years ago with polypectomy. Reports that her 
diet is normal. She eats red meat regularly. Has no dietary 
restriction. She notes that she has increased predilection to 
eating ice. No other ___ behaviors
 
Past Medical History:
- HTN
- HLD
- Diverticulosis
- Depression
- s/p Csection
- Uterine Fibroids
 
Social History:
___
Family History:
Family history of heart disease, both brother's have had CABG. 
Mother died of a stroke. No family history of bleeding 
disorders, thalassemia, blood disorders. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VS: 98.2 PO 111 / 70 L Lying 70 18 98 RA 
GEN: Very well appearing. No distress
HEENT: marked conjunctival pallor. No glossitis
NECK: JVP flat. 
PULM: CTAB 
COR: RRR, normal S1/S2. No m/r/g
ABD: Soft, NT/ND. 
EXTREM:  no ___ edema. No clubbing or koilonychias.
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM: 
========================
VS: 98 131/74 65 18 96% RA
GEN: Very well appearing. No distress
HEENT: conjunctival pallor. No glossitis
NECK: JVP flat. 
PULM: CTAB 
COR: RRR, normal S1/S2. No m/r/g
ABD: Soft, NT/ND. 
EXTREM:  no ___ edema. No clubbing or koilonychias.
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS: 
============================
___ 10:00AM BLOOD WBC-6.3 RBC-4.44 Hgb-7.8*# Hct-28.3*# 
MCV-64*# MCH-17.6*# MCHC-27.6*# RDW-19.3* RDWSD-42.7 Plt ___
___ 10:00AM BLOOD Neuts-68.1 ___ Monos-7.8 Eos-0.5* 
Baso-0.3 Im ___ AbsNeut-4.27 AbsLymp-1.43 AbsMono-0.49 
AbsEos-0.03* AbsBaso-0.02
___ 06:51AM BLOOD ___ PTT-24.7* ___
___ 10:00AM BLOOD Glucose-100 UreaN-22* Creat-1.3* Na-132* 
K-3.8 Cl-94* HCO3-23 AnGap-19
___ 10:00AM BLOOD ALT-21 AST-23 LD(LDH)-197 AlkPhos-58 
TotBili-0.3 DirBili-<0.2 IndBili-0.3
___ 10:00AM BLOOD cTropnT-<0.01
___ 10:00AM BLOOD proBNP-73

NOTABLE LABS:
================
___ 10:00AM BLOOD calTIBC-640* ___ Ferritn-6.8* 
TRF-492*
___ 10:00AM BLOOD Iron-28*

DISCHARGE LABS: 
============================
___ 06:51AM BLOOD WBC-4.0 RBC-4.57 Hgb-8.4* Hct-29.6* 
MCV-65* MCH-18.4* MCHC-28.4* RDW-20.1* RDWSD-45.3 Plt ___
___ 06:51AM BLOOD Glucose-89 UreaN-19 Creat-0.8 Na-139 
K-4.1 Cl-101 HCO3-27 AnGap-15
___ 06:51AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.2

MICROBIOLOGY: None
STUDIES: None
 
Brief Hospital Course:
Ms. ___ is a ___ woman w/ history of HTN, HLD who presented 
with with progressive fatigue, exertional shortness of breath, 
weakness over a month found to have symptomatic severe iron 
deficiency anemia. 

ACTIVE ISSUES: 
===============
# Iron Deficiency Anemia, Symptomatic: Patient presents with 
progressive fatigue and dyspnea on exertion likely from 
symptomatic anemia, iron studies c/w iron deficiency, ferritin 
6.8. No clear bleeding source, concern for potential slow GI 
bleed. No e/o hemolysis. No obvious sources of active bleeding. 
FOBT negative on presentation. Transfused 1u pRBC with 
improvement in symptoms, and appropriate increase in Hgb to 8.4 
on day of discharge.  Started on ferrous sulfate supplement and 
discharged home with plan for outpatient w/u with colonoscopy. 

# Acute Kidney Injury: Patient presents with Cr of 1.3. Prior 
baseline 0.8 in ___. resolved s/p transfusion 

CHRONIC ISSUES: 
===============
# HTN: continued lisinopril on discharge
# HLD: continued simvastatin
# Depression: continued sertraline

TRANSITIONAL ISSUES: 
======================
- will need outpatient colonoscopy to eval for slow GI bleed
- started on ferrous sulfate, counseled on bowel regimen
- recommend repeating CBC, retic count and ferritin to assess 
response to iron therapy/for continued bleeding in ___ or as 
needed for persistent symptoms 
- needs PCP ___ within 1 wk post discharge, patient to call to 
arrange
- urine cx pending on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
2. Sertraline 25 mg PO DAILY 
3. Lisinopril 2.5 mg PO DAILY 
4. Simvastatin 5 mg PO QPM 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
3.  Lisinopril 2.5 mg PO DAILY  
4.  Sertraline 25 mg PO DAILY  
5.  Simvastatin 5 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: iron deficiency anemia

SECONDARY: acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital because you were feeling weak 
and short of breath likely from anemia. You received a blood 
transfusion and felt much better. You were started on an iron 
supplement and discharged home. You should follow-up with your 
primary care doctor within the next week and will likely need a 
colonoscopy to look for a cause of your anemia. 

After going home, if you notice any blood in your stool or urine 
or any vaginal bleeding you should seek medical attention. Also 
if you start to have dark sticky bowel movements. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___